US04731367
Under argon, a solution of 244 mg (0.67 mmol) of 3-(9,10-didehydro-2-formyl-6-methyl-8α-ergolinyl)-1,1-diethylurea in 25 ml of absolute, freshly distilled tetrahydrofuran is added dropwise to a suspension of 52 mg (1.45 mmol) of lithium aluminum hydride in 3 ml of absolute, freshly distilled tetrahydrofuran at room temperature. The mixture is stirred for one hour at room temperature. The batch is cooled in an ice bath and combined in succession with 3 ml of 1N hydrochloric acid and 3 ml of 2N tartaric acid. The mixture is layered over with ethyl acetate and made alkaline with 12 ml of 1N ammonia solution. The ethyl acetate phase is separated and the aqueous phase is additionally extracted twice with ethyl acetate. The combined ethyl acetate phases are dried over sodium sulfate and concentrated. The product is crystallized from ethyl acetate, yielding 161 mg of 3-(9,10-didehydro-2-hydroxymethyl-6-methyl-8α-ergolinyl)-1,1-diethylurea (65% yield).

reactant | 3-(9,10-didehydro-2-formyl-6-methyl-8α-ergolinyl)-1,1-diethylurea | 0.67 mmol, 244 mg | C(=O)C1=C2C[C@H]3N(C[C@H](C=C3C=3C=CC=C(N1)C32)NC(N(CC)CC)=O)C | C21H26N4O2
reactant | lithium aluminum hydride | 1.45 mmol, 52 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 1N, 3 ml | Cl | ClH
reactant | tartaric acid | 2N, 3 ml | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | ammonia | 1N, 12 ml | N | H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(9,10-didehydro-2-hydroxymethyl-6-methyl-8α-ergolinyl)-1,1-diethylurea | 161 mg, 65% yield | OCC1=C2C[C@H]3N(C[C@H](C=C3C=3C=CC=C(N1)C32)NC(N(CC)CC)=O)C | C21H28N4O2
